US06515149B2
A Grignard reagent was customarily prepared from 200 g of 5-bromomethyl-2-norbornene in 500 ml of dry tetrahydrofuran. The Grignard reagent was added dropwise over one hour to a mixture of 130 g of 3,3-diethoxy-1-propene, 1.0 g of copper (I) bromide and 300 ml of dry tetrahydrofuran at 20° C. Stirring was continued for 20 hours whereupon the reaction solution was added to a saturated aqueous solution of ammonium chloride to stop reaction. After hexane extraction, the organic layer was successively washed with water, saturated sodium bicarbonate water and saturated sodium chloride water, dried over anhydrous sodium sulfate, and concentrated in vacuum, yielding 5-(4-ethoxy-3-buten-1-yl)-2-norbornene.

reactant | 5-bromomethyl-2-norbornene | 200 g | BrCC1C2C=CC(C1)C2 | C8H11Br
reactant | 3,3-diethoxy-1-propene | 130 g | C(C)OC(C=C)OCC | C7H14O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
catalyst | copper (I) bromide | 1.0 g | [Cu]Br
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 5-(4-ethoxy-3-buten-1-yl)-2-norbornene | C(C)OC=CCCC1C2C=CC(C1)C2 | C13H20O
